US06670372B2
3—Nitro-N-(2-phenoxyethyl)quinolin-4-amine (6.0 g, 19 mmol), 5% platinum on carbon (1.5 g) and ethyl acetate (300 ml) were placed in a hydrogenation flask. The mixture was shaken overnight under a hydrogen pressure of 40 psi (2.8 Kg/cm2). The reaction mixture was filtered and the catalyst was washed with ethyl acetate. The filtrate was dried (MgSO4), filtered, and concentrated under vacuum to near dryness. Hexane was added and the resulting precipitate was collected by vacuum filtration to provide 4.9 g of N4-(2-phenoxyethyl)quinoline-3,4-diamine as a pale yellow solid.

reactant | 3—Nitro-N-(2-phenoxyethyl)quinolin-4-amine | 19 mmol, 6.0 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCOC1=CC=CC=C1 | C17H15N3O3
catalyst | platinum on carbon | 1.5 g | [Pt] | Pt
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | N4-(2-phenoxyethyl)quinoline-3,4-diamine | 4.9 g | O(C1=CC=CC=C1)CCNC1=C(C=NC2=CC=CC=C12)N | C17H17N3O
